2129-12-26 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2129-12-25**] 01:28 PM
   bilat LE
 NASAL SWAB - At [**2129-12-25**] 01:34 PM
   routine MRSA swab
 BLOOD CULTURED - At [**2129-12-25**] 02:20 PM
   X 2 venipunctures
 URINE CULTURE - At [**2129-12-25**] 02:26 PM
   LE u/s - wetread, no DVTs
   continued tachy and hypertensive (SBP 160s-170s), not very responsive
   to metoprolol po 25mg x2; 10mg IV labetalol, saw nice decr SBP by 20
   points, so repeated.
   CTA - wetread - No plumonary embolism to subsegmental levels. Mild
   interlobular thicking suggestive of component of congestive heart
   failure. Extensive atherosclerotic disease involving the thoracic
   aorta, and coronary arteries. AVR. Bilateral adrenal hyperplasia.
   Severe wedge compression deformities of the thoracic spine (Vertebral
   planus) with kyphosis. Old rib deformity.
   Hypokalemic - PO & IV K given, resolved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-25**] 08:23 PM
   Metronidazole - [**2129-12-25**] 09:48 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2129-12-26**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-26**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 85 (78 - 113) bpm
   BP: 179/101(119) {146/63(90) - 186/105(122)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,111 mL
                                                                    270 mL
   PO:
                                                                    780 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,331 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    890 mL
   Urine:
                                                                    980 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.44/40/81.[**Numeric Identifier 253**]/26/2
   Physical Examination
   GEN: nad, denies pain or sob
   TORSO: kyphotic
   CV: rrr, no murmurs
   PULM: poor inspiratory effort, crackles mild b/l posterior
   ABD: soft, nt, round
   EXTR: dry scales and scab on right shin, without ttp; no edema,
   cachectic
   Labs / Radiology
   307 K/uL
   14.4 g/dL
   157 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   21 mg/dL
   105 mEq/L
   143 mEq/L
   42.8 %
   23.1 K/uL
        [image002.jpg]
                            [**2129-12-25**]  11:39 AM
                            [**2129-12-25**]  03:30 PM
                            [**2129-12-25**]  09:14 PM
                            [**2129-12-26**]  03:03 AM
   WBC
   29.7
   23.1
   Hct
   44.9
   42.8
   Plt
   325
   307
   Cr
   1.1
   0.9
   TropT
   <0.01
   TCO2
   28
   Glucose
   153
   157
   Other labs: PT / PTT / INR:16.4/146.1/1.5, CK / CKMB /
   Troponin-T:5//<0.01, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
   Pt is [**Age over 90 **] yo female with h/o AVR, A fib, dCHF, CABG, HTN, and right leg
   cellulitis x1 transferred to the MICU after increased HRs to 120-130s
   overnight, SBP to 170s, increased fatigue, 3 episodes of chest pain,
   and more elevated WBC in the setting of hemoconcentration. Ddx:
   Tachycardia could be due to dehydration in the setting of c diff and
   developing sepsis and concern for PE (pockets of edema on right
   ankle/shin, new oxygen requirement). CP this am could be due to demand
   ischemia in the setting of HTN and increased HR.
   PE ruled out by CTA.
   .
   #. New oxygen requirement: o2 sat dropped to somewhere in 80s when 2L
   of NC removed on floor and pt tachypnic to high 30s/low 40s. Thus
   concern for PE. ? if pt could also have aspirated. No clear PNA on CXR.
   ABG overnight on RA with p02 67 and repeat on 2L with p02 of 82.
   D-dimer 5840. CTA ruled out PE
 stopped heparin gtt o/n. SpO2 drops
   quickly if O2 removed. Could be due to dCHF, hypertension, volume
   overload.
   -f/u final read of CTA and LE U/S
   -hold on diuresis or hydration for now give tenuous volume status
   (appears dehydrated, with diarrhea, but with crackles on exam)
   -wean O2 as tolerated
   -optimize BP control; concern HTN could be worsening dCHF and hence
   causing crackles and O2 requirement
   .
   #. Diarrhea: c diff +. WBC elevated on admission but increased WBC
   likley due to hemoconcentration but infection could also be worsening.
   However lactate 1.3 at 3am. Abd exam benign. 4 loose BM yesterday (of
   note pt reports bloody BMs at home). UOP fine but got lasix o/n.
   Improving diarrhea today.
   -treat with solely PO flagyl (d/c vanco)
   -monitor fever curve, currently afebrile
   -monitor abd exam
   -follow WBC daily
   -f/u blood cultures
   .
   #. HTN: Hypertensive to 180s overnight. Non-responsive to metoprolol,
   responsive to labetalol.
   - start labetalol 400mg po tid for goal SBP<160
   - consider calcium channel blocker
   - hold on ACE/[**Last Name (un) 239**] given contrast load to kidneys yesterday
   .
   #. Tachycardia: Most likely due to being dry in the setting of c diff.
   PE is also of concern given tachycardia, new o2 reuirement, and right
   heart strain on EKG however that is present on EKG from [**10-14**].  D-dimer
   came back as 5840 but pt is chronically ill. PE ruled out. Not tachy
   this AM.
   -Pain control
   -Treat BP
   -Hold on diuresis or fluid resuscitation for now
   .
   #. h/o a fib:
   -continue amiodarone
   .
   #. Fatigue: Pt with eyes closed in bed but will open them and talk to
   you when asked. Pt is A & 0 x3.  UE and LE strength 4/5 but symmetric
   bilaterally. Today, patient A&O x3, alert, interactive, appropriate.
   - monitor
   - treat infection
   .
   #. Chest pain: Likely demand related to HTN and tachycardia. One
   episode of chest pressure on [**12-24**] and 2 episodes [**12-25**]. Got ASA 325.
   No CP since arrival in the MICU.
   - monitor
   -continue ASA, statin, (on amiodarone at home)
   .
   #. dCHF: CXR overnight (prior to lasix) actually looks better compared
   to most recent CXR. Have little concern for volume overload at this
   time- would not repeat lasix especially if chance of PE given could be
   preload dependent.
   -monitor I/Os
   -treat HTN as above
   .
   # RLE wound
 dry scab, protect with dry wound cover, monitor
   .
   # FEN:
   -daily electrolytes
   -reg diet
   -tylenol prn pain
   .
   # Prophylaxis: heparin SQ (s/p heparin gtt)
   .
   # Access: 2 peripherals
   .
   # Communication: Patient. Spoke with her Nephew [**Name (NI) 1319**] [**Name (NI) **]
   [**Telephone/Fax (1) 11192**] and to daughter who is HCP in [**Name2 (NI) 1499**] (trying to get
   flight here) [**Telephone/Fax (1) 11193**] or [**Telephone/Fax (1) 11194**].
   .
   # Code:  DNR/DNI confirmed with daughter
   .
   # Disposition: Call-out to floor today.
   ICU Care
   Lines:
   20 Gauge - [**2129-12-25**] 03:30 PM
   Code status: DNR / DNI

2129-12-26 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women with C. diff, admitted for hypoxemia/tachycardia.  CTA with
   no PE.  Mild CHF.  Overnight has been tachy and HTNsive.  responded to
   IV labetolol.  Also somewhat hypokalemic.
   24 Hour Events:
 ULTRASOUND - At [**2129-12-25**] 01:28 PM
   bilat LE
 NASAL SWAB - At [**2129-12-25**] 01:34 PM
   routine MRSA swab
 BLOOD CULTURED - At [**2129-12-25**] 02:20 PM
   X 2 venipunctures
 URINE CULTURE - At [**2129-12-25**] 02:26 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-25**] 08:23 PM
   Metronidazole - [**2129-12-25**] 09:48 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2129-12-26**] 06:15 AM
   Other medications:
   flagyil IV
   Effexor
   simvastatin
   vitamin D
   amiodarone
   asa
   vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-26**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 78 (77 - 113) bpm
   BP: 164/90(107) {146/63(90) - 186/105(122)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,111 mL
                                                                    289 mL
   PO:
                                                                    780 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,331 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                  1,090 mL
   Urine:
                                                                    980 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.44/40/81.[**Numeric Identifier 253**]/26/2
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, A&O times 3.
   Labs / Radiology
   14.4 g/dL
   307 K/uL
   157 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   21 mg/dL
   105 mEq/L
   143 mEq/L
   42.8 %
   23.1 K/uL
        [image002.jpg]
                            [**2129-12-25**]  11:39 AM
                            [**2129-12-25**]  03:30 PM
                            [**2129-12-25**]  09:14 PM
                            [**2129-12-26**]  03:03 AM
   WBC
   29.7
   23.1
   Hct
   44.9
   42.8
   Plt
   325
   307
   Cr
   1.1
   0.9
   TropT
   <0.01
   TCO2
   28
   Glucose
   153
   157
   Other labs: PT / PTT / INR:16.4/146.1/1.5, CK / CKMB /
   Troponin-T:5//<0.01, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
   Hypoxemia:  crackles on exam, consistent with mild pulmonary edema.
   Don't feel that she is fluid overloaded, but may be diastolic
   dysfunction with HTN.  Will get better BP control with labetolol.
   C. diff:  continue PO flagyl
   LE wound:  healing well.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-25**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2129-12-27 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypertension, tachycardia
   24 Hour Events:
   - Pt was not called out to floor yesterday given hypotension (SBP
   80s-90s)and decr urine output after she was given a dose of labetolol
   300mg PO. Pt received 1.5L of fluid over the day, including a 500cc
   bolus at 245am with improvement in BP/UOP as the labetolol wore off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-25**] 08:23 PM
   Metronidazole - [**2129-12-25**] 09:48 PM
   Infusions:
   Other ICU medications: Labetolol
   Other medications:
   Flowsheet Data as of  [**2129-12-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 74 (63 - 83) bpm
   BP: 140/75(89) {83/44(54) - 179/98(113)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,614 mL
                                                                    737 mL
   PO:
                                                                  1,410 mL
             TF:
   IVF:
                                                                  1,204 mL
                                                                    737 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    140 mL
   Urine:
                                                                  1,440 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   GEN: nad, denies pain or sob, kyphotisc
   CV: RRR, no m
   PULM: crackles bilat bases
   ABD: soft, nt, +BS
   EXTR: dry scales and scab on right shin, without ttp; no edema,
   cachectic
   Labs / Radiology
   214 K/uL
   12.6 g/dL
   127 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   142 mEq/L
   38.8 %
   15.4 K/uL
        [image002.jpg]
                            [**2129-12-25**]  11:39 AM
                            [**2129-12-25**]  03:30 PM
                            [**2129-12-25**]  09:14 PM
                            [**2129-12-26**]  03:03 AM
                            [**2129-12-26**]  03:51 PM
                            [**2129-12-27**]  03:38 AM
   WBC
   29.7
   23.1
   15.4
   Hct
   44.9
   42.8
   38.8
   Plt
   [**Telephone/Fax (3) 11198**]
   Cr
   1.1
   0.9
   0.9
   1.0
   TropT
   <0.01
   TCO2
   28
   Glucose
   153
   157
   226
   127
   Other labs: PT / PTT / INR:16.4/146.1/1.5, CK / CKMB /
   Troponin-T:5//<0.01, Differential-Neuts:94.5 %, Lymph:2.8 %, Mono:2.5
   %, Eos:0.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: LENI - no DVT
   CTA - no final read yet, wet read: No plumonary embolism to
   subsegmental levels. Mild interlobular thicking
   suggestive of component of congestive heart failure. Extensive
   atherosclerotic disease involving the thoracic aorta, and coronary
   arteries.
   AVR. Bilateral adrenal hyperplasia. Severe wedge compression
   deformities of the thoracic spine (Vertebral planus) with kyphosis. Old
   rib deformity.
   Microbiology: C. diff positive
   B cxrs x 2, urine cxrs pending,
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O HYPERTENSION, BENIGN
   Pt is [**Age over 90 **] yo female with h/o AVR, A fib, dCHF, CABG, HTN, and right leg
   cellulitis x1 transferred to the MICU after increased HRs to 120-130s
   overnight, SBP to 170s, increased fatigue, 3 episodes of chest pain,
   and more elevated WBC in the setting of hemoconcentration. Ddx:
   Tachycardia could be due to dehydration in the setting of c diff and
   developing sepsis and concern for PE (pockets of edema on right
   ankle/shin, new oxygen requirement). CP this am could be due to demand
   ischemia in the setting of HTN and increased HR.  PE ruled out by CTA.
   .
   #. New oxygen requirement: o2 sat dropped to somewhere in 80s when 2L
   of NC removed on floor and pt tachypnic to high 30s/low 40s. Thus
   concern for PE. ? if pt could also have aspirated. No clear PNA on CXR.
   ABG overnight on RA with p02 67 and repeat on 2L with p02 of 82.
   D-dimer 5840. CTA ruled out PE
 stopped heparin gtt o/n. SpO2 drops
   quickly if O2 removed. Suspect O2 requirement is due to diastolic CHF,
   with pt
s considerable kyphosis contributing to hypoxia.
   -f/u final read of CTA
   -hold on diuresis or hydration for now give tenuous volume status
   -optimize BP/HR control; HTN and tachycardia could be worsening dCHF
   and hence resulting in crackles and O2 requirement
   -wean O2 as tolerated
   .
   #. Diarrhea: c diff +. WBC elevated on admission but increased WBC
   likley due to hemoconcentration but infection could also be worsening.
   However lactate 1.3 at 3am. Abd exam benign. 4 loose BM yesterday (of
   note pt reports bloody BMs at home). UOP fine but got lasix o/n.
   Improving diarrhea today.
   -treat with solely PO flagyl (d/c vanco)
   -monitor fever curve, currently afebrile
   -monitor abd exam
   -follow WBC daily
   -f/u blood cultures
   .
   #. HTN: Hypertensive to 180s overnight. Non-responsive to metoprolol,
   exquisitely responsive to Labetalol. Became hypotensive in setting of
   Labetolol 300mg PO x1.
   - decreased labetalol from 300mg TID to 100mg PO BID for goal SBP<160,
   will cont to closely monitor BP
   - could consider calcium channel blocker
   .
   #. Tachycardia: Most likely due to being dehydrated in the setting of c
   diff.  PE was also of concern given tachycardia, new o2 reuirement, and
   right heart strain on EKG however that is present on EKG from [**10-14**].
   D-dimer came back as 5840 but pt is chronically ill. PE ruled out with
   CTA chest. Not tachy this AM. S/p heparin drip.
   - Tachycardia resolved
   -Pain control
   -Treat BP
   - Re-check coags today, given elevated PTT yesterday after heparin
   drip.
   .
   #. h/o a fib:
   -continue amiodarone
   .
   #. Fatigue: Pt with eyes closed in bed but will open them and talk to
   you when asked. Pt is A & 0 x3.  UE and LE strength 4/5 but symmetric
   bilaterally. Today, patient A&O x3, alert, interactive, appropriate.
   - monitor
   - treat infection
   .
   #. Chest pain: Likely demand related to HTN and tachycardia. One
   episode of chest pressure on [**12-24**] and 2 episodes [**12-25**]. Got ASA 325.
   No CP since arrival in the MICU.
   - monitor
   -continue ASA, statin, (on amiodarone at home)
   .
   #. dCHF: CXR overnight (prior to lasix) actually looks better compared
   to most recent CXR. Have little concern for volume overload at this
   time- would not repeat lasix especially if chance of PE given could be
   preload dependent.
   -monitor I/Os
   -treat HTN as above
   .
   # RLE wound
 dry scab, protect with dry wound cover, monitor
   .
   # FEN:
   -daily electrolytes
   -reg diet
   -tylenol prn pain
   .
   # Prophylaxis: heparin SQ (s/p heparin gtt)
   .
   # Access: 2 peripherals
   .
   # Communication: Patient. Spoke with her Nephew [**Name (NI) 1319**] [**Name (NI) **]
   [**Telephone/Fax (1) 11192**] and to daughter who is HCP in [**Name (NI) **] (trying to get
   flight here) [**Telephone/Fax (1) 11193**] or [**Telephone/Fax (1) 11194**].
   .
   # Code:  DNR/DNI confirmed with daughter
   .
   # Disposition: Call-out to floor today.

2129-12-27 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women admitted with tachycardia, HTN, hypoxemia.  CTA negative
   for PE.  Pt with some HOTN yesterday after labetolol dose.  Got some
   IVF boluses.  BP improved this morning as has her urine output.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-25**] 08:23 PM
   Metronidazole - [**2129-12-25**] 09:48 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Effexort
   simvastatin
   vitamin D
   asa
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Nausea
   Flowsheet Data as of  [**2129-12-27**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 68 (63 - 83) bpm
   BP: 107/53(66) {83/44(54) - 167/98(112)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,614 mL
                                                                  1,122 mL
   PO:
                                                                  1,410 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,204 mL
                                                                    762 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    175 mL
   Urine:
                                                                  1,440 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                    947 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   214 K/uL
   127 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   142 mEq/L
   38.8 %
   15.4 K/uL
        [image002.jpg]
                            [**2129-12-25**]  11:39 AM
                            [**2129-12-25**]  03:30 PM
                            [**2129-12-25**]  09:14 PM
                            [**2129-12-26**]  03:03 AM
                            [**2129-12-26**]  03:51 PM
                            [**2129-12-27**]  03:38 AM
   WBC
   29.7
   23.1
   15.4
   Hct
   44.9
   42.8
   38.8
   Plt
   [**Telephone/Fax (3) 11198**]
   Cr
   1.1
   0.9
   0.9
   1.0
   TropT
   <0.01
   TCO2
   28
   Glucose
   153
   157
   226
   127
   Other labs: PT / PTT / INR:16.4/146.1/1.5, CK / CKMB /
   Troponin-T:5//<0.01, Differential-Neuts:94.5 %, Lymph:2.8 %, Mono:2.5
   %, Eos:0.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
   Hypoxemia:  still mildly hypoxemic, some of it may be chronic, but her
   lung exam is improved today with decreased crackles.
   HOTN: improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-25**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes